US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzene-dicarboxamide (0.033 g, 0.05 mmol), 1-methylhexahydro-1H-1,4-diazepine (0.007 g, 0.06 mmol), and acetic acid (0.0036 g, 0.06 mmol) were combined in CH2Cl2 (2 mL). Sodium triacetoxyborohydride (0.0148 g, 0.07 mmol) was added and the mixture stirred overnight at room temperature. Solvents were concentrated and the residue taken up in EtOAc. It was washed with 1N NaOH and dried over anhydrous Na2SO4, filtered, and concentrated to give the crude product. The product was purified using a Gilson HPLC with a TFA system. The purified compound was taken up in EtOAc, washed 3× with 2.5 N NaOH, 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound as a white solid. LC-MS m/z 757.2 (M+H)+, 1.38 min (ret time); mp 107-109° C. Analytical HPLC shows 95.3% purity, (ret time 10.035 min).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzene-dicarboxamide | 0.05 mmol, 0.033 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | 1-methylhexahydro-1H-1,4-diazepine | 0.06 mmol, 0.007 g | CN1CCNCCC1 | C6H14N2
reactant | acetic acid | 0.06 mmol, 0.0036 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.07 mmol, 0.0148 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCN(CCC2)C)CC | C45H56N8O3
